.lib /home/matt/work/asic-workshop/shuttle-2404/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include "../mag/tt_um_mattvenn_r2r_dac.sim.spice"

.param mc_mm_switch=1
.param mc_pr_switch=1

xtt clk ena rst_n ua[0] ua[1] ua[2] ua[3] ua[4] ua[5] ua[6]
+ ua[7] ui_in[0] ui_in[1] ui_in[2] ui_in[3] ui_in[4] ui_in[5] ui_in[6] ui_in[7] uio_in[0]
+ uio_in[1] uio_in[2] uio_in[3] uio_in[4] uio_in[5] uio_in[6] uio_in[7] uio_oe[0]
+ uio_oe[1] uio_oe[2] uio_oe[3] uio_oe[4] uio_oe[5] uio_oe[6] uio_oe[7] uio_out[0]
+ uio_out[1] uio_out[2] uio_out[3] uio_out[4] uio_out[5] uio_out[6] uio_out[7] uo_out[0]
+ uo_out[1] uo_out[2] uo_out[3] uo_out[4] uo_out[5] uo_out[6] uo_out[7] vcc 0 tt_um_mattvenn_r2r_dac

**** End of the ADC and its subcircuits.  Begin test circuit ****

.param vcc=3.3
vcc vcc 0 {vcc}

* set ext data to be off, signal is generated inside
Vext_data uio_in[0] 0 0

* Digital clock signal

aclock 0 clk clock
.model clock d_osc cntl_array=[-1 1] freq_array=[1Meg 1Meg]

* reset signal

Vreset rst_n 0 PULSE 3 0 1n 20p 20p 1u 500u

.control
tran 100n 400u
plot ua[0]
.endc
.end
